US08445501B2
4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [(R)-1-(2-hydroxy-ethanoyl)-pyrrolidin-3-yl]amide
Starting from 4-(5-cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (R)-pyrrolidin-3-ylamide hydrochloride (example A142) and acetic acid chlorocarbonyl-methyl ester the title compound is obtained as colorless solid.

reactant | 4-(5-cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (R)-pyrrolidin-3-ylamide hydrochloride | Cl.N1C[C@@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1
reactant | acetic acid chlorocarbonyl-methyl ester | ClC(=O)COC(C)=O | C4H5ClO3
product | 4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [(R)-1-(2-hydroxy-ethanoyl)-pyrrolidin-3-yl]amide | OCC(=O)N1C[C@@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | C24H25N5O6
